US03948987
4-Phenylthio-2-trifluoromethylaniline
2-Nitro-5-phenylthiobenzotrifluoride (25.6 g, 0.86 mole) in ethanol (500 ml) is reduced over Raney nickel at about 45 psi of hydrogen gas. After hydrogen uptake is complete the mixture is deactivated with elemental sulfur, filtered, and the filtrate evaporated under reduced pressure to afford product as an oil. The infrared spectrum shows an absorption at 2.9μ (strong NH band). The product crystallizes on standing to give a solid, m.p. 63°-66.5° C.

reactant | 2-Nitro-5-phenylthiobenzotrifluoride | 0.86 mole, 25.6 g | [N+](=O)([O-])C1=C(C=C(C=C1)SC1=CC=CC=C1)C(F)(F)F | C13H8F3NO2S
reactant | hydrogen | [H][H] | H2
reactant | sulfur | [S] | S
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 4-Phenylthio-2-trifluoromethylaniline | C1(=CC=CC=C1)SC1=CC(=C(N)C=C1)C(F)(F)F | C13H10F3NS
